US08334236B2
(2) Production of 1-benzyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid
1.95 g (6.3 mmol) of ethyl 1-benzyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate was dissolved in 1,4-dioxane (30 mL), and 1.31 g (9.5 mmol) of potassium carbonate and 60 mL of water were added to this solution at room temperature. The resulting mixture was stirred for 3 hours at 50° C. The solvent of the reaction mixture was distilled off under reduced pressure, and the residue was dissolved in water. Concentrated hydrochloric acid was added to make the solution acidic, and the mixture was extracted with chloroform. The organic phase was dried, filtered, and concentrated, and thus 1.71 g (yield: 97%) of the title compound was obtained as colorless crystals.

reactant | ethyl 1-benzyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 6.3 mmol, 1.95 g | C(C1=CC=CC=C1)N1C(C(=CC2=CC=CN=C12)C(=O)OCC)=O | C18H16N2O3
reactant | potassium carbonate | 9.5 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 60 mL | O | H2O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-benzyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 1.71 g, yield: 97% | C(C1=CC=CC=C1)N1C(C(=CC2=CC=CN=C12)C(=O)O)=O | C16H12N2O3
